US04743586
A solution of 16 g of 2,3-dioxobutyric acid ethyl ester, (Z)-2-oxime, 12 g of 3-aminomethylpyridine and 100 ml of acetonitrile was stirred at reflux for 4 hours, then clarified while hot and the filtrate cooled at -10° C. The resulting precipitate was collected, washed with acetonitrile, air dried and recrystallized from acetonitrile at -10° C., giving 4.8 g of 5-methyl-2-(3-pyridinyl)-1H-imidazole-4-carboxylic acid, ethyl ester.

reactant | 2,3-dioxobutyric acid ethyl ester | 16 g | C(C)OC(C(C(C)=O)=O)=O | C6H8O4
reactant | 3-aminomethylpyridine | 12 g | NCC=1C=NC=CC1 | C6H8N2
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-methyl-2-(3-pyridinyl)-1H-imidazole-4-carboxylic acid, ethyl ester | 4.8 g | CC1=C(N=C(N1)C=1C=NC=CC1)C(=O)OCC | C12H13N3O2
